### PR TITLE
[Merged by Bors] - chore(Algebra/Polynomial/BigOperators): shorten proof of coeff_list_prod_of_natDegree_le

### PR DESCRIPTION
**Pull request by dwrensha**
Replaces 7 lines of proof with an invocation of [`coeff_mul_add_eq_of_natDegree_le`](https://github.com/leanprover-community/mathlib4/blob/d60509c1f95a860ce33563b93bc82a3856f67fb2/Mathlib/Algebra/Polynomial/Degree/Operations.lean#L439-L451)

Found by [`tryAtEachStep`](https://github.com/dwrensha/tryAtEachStep).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/BigOperators.lean [hunk 1]
```diff
@@ -106,13 +106,7 @@ theorem coeff_list_prod_of_natDegree_le (l : List S[X]) (n : ℕ) (hl : ∀ p 
...
       simpa using hl'
     have hdn : natDegree hd ≤ n := hl _ List.mem_cons_self
-    rcases hdn.eq_or_lt with (rfl | hdn')
-    · rcases h.eq_or_lt with h' | h'
-      · rw [← h', coeff_mul_degree_add_degree, leadingCoeff, leadingCoeff]
-      · rw [coeff_eq_zero_of_natDegree_lt, coeff_eq_zero_of_natDegree_lt h', mul_zero]
-        exact natDegree_mul_le.trans_lt (add_lt_add_left h' _)
-    · rw [coeff_eq_zero_of_natDegree_lt hdn', coeff_eq_zero_of_natDegree_lt, zero_mul]
-      exact natDegree_mul_le.trans_lt (add_lt_add_of_lt_of_le hdn' h)
+    exact coeff_mul_add_eq_of_natDegree_le hdn h
```
Comment (dwrensha) [inline Mathlib/Algebra/Polynomial/BigOperators.lean:109]: The goal at this point is:
```lean
S : Type u_1
inst : Semiring S
n : ℕ
hd : S[X]
tl : List S[X]
IH : (∀ p ∈ tl, p.natDegree ≤ n) → tl.prod.coeff (tl.length * n) = (List.map (fun p ↦ p.coeff n) tl).prod
hl : ∀ p ∈ hd :: tl, p.natDegree ≤ n
hl' : ∀ p ∈ tl, p.natDegree ≤ n
h : tl.prod.natDegree ≤ n * tl.length
hdn : hd.natDegree ≤ n
⊢ (hd * tl.prod).coeff (n + n * tl.length) = hd.coeff n * tl.prod.coeff (n * tl.length)
```

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Can you replace `hdn` with its def (in the line just above)? Anyway thanks!

bors d+
